US04656269
A solution containing 3.43 g of sodium hydrogen sulfite in 20 ml of water was added to 2.81 g of N-carbobenzoxy-L-leucinal, and the mixture was stirred for 14 hours under ice-cooling. A solution of 1.41 g of potassium cyanide in 50 ml of water and 200 ml of ethyl acetate were added to the reaction mixture, and the mixture was stirred for 4 hours at room temperature. The ethyl acetate layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure to give 2.54 g of 3-carbobenzoxyamino-2-hydroxy-5-methylhexanenitrile as a colorless oil. A mixture of 20 ml of dioxane and 20 ml of concentrated hydrochloric acid was added to 500 mg of the nitrile, and the mixture was heated under reflux for 12 hours. The reaction mixture was evaporated under reduced pressure, and the residual crystals were purified by cation exchange column chromatography (eluent: a 2N aqueous NH4OH solution) to obtain 254 mg of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid as colorless crystals (a mixture in ratio of 2R and 2S being about 7:3).

reactant | sodium hydrogen sulfite | 3.43 g | S(=O)(O)[O-].[Na+]
reactant | N-carbobenzoxy-L-leucinal | 2.81 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C=O | C14H19NO3
reactant | potassium cyanide | 1.41 g | [C-]#N.[K+]
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-carbobenzoxyamino-2-hydroxy-5-methylhexanenitrile | 2.54 g | C(=O)(OCC1=CC=CC=C1)NC(C(C#N)O)CC(C)C | C15H20N2O3
